US07414050B2
b) 4-(4-Amino-phenyl)-1-methyl-piperidine-2,6-dione
A suspension of 348 mg (1.40 mmol) of 1-methyl-4-(4-nitro-phenyl)-piperidine-2,6-dione (as prepared in the previous step) in MeOH (10 mL) was hydrogenated over 10% Pd/C at 20 psi for 1 h at RT. The mixture was filtered through Celite, the filter cake was washed with MeOH, and the solvents were evaporated in vacuo to afford 289 mg (94%) of the title compound as an off-white solid: Mass spectrum (ESI, m/z): Calcd. for C12H14N2O2, 219.1 (M+H). found 219.1.

reactant | 1-methyl-4-(4-nitro-phenyl)-piperidine-2,6-dione | 1.40 mmol, 348 mg | CN1C(CC(CC1=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C12H12N2O4
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-Amino-phenyl)-1-methyl-piperidine-2,6-dione | 289 mg, 94% | NC1=CC=C(C=C1)C1CC(N(C(C1)=O)C)=O | C12H14N2O2
